US05424329
Methyl 5-methoxy-1-methyl-3-(methylthio)-1H-indole-2-carboxylate
A suspension of 60% sodium hydride in mineral oil (0.30 g, 7.5 mmol) in 3.0 mL of N,N-dimethylformamide is cooled in ice while a solution of methyl 5-methoxy-3-(methylthio)-1H-indole-2-carboxylate (1.3 g, 5.2 mmol) in 10 mL of N,N-dimethylformamide is added dropwise. The mixture is stirred for 45 minutes, then iodomethane (0.50 mL, 1.1 g, 8.0 mmol) is added in one portion. After stirring at room temperature for 8 hours, the mixture is added to 100 g of ice and water. The solid is filtered and washed with 10% methanol-water to yield 1.2 g (88%) of product. A sample purified by flash chromatography (silica gel, 25% hexane in dichloromethane elution) and recrystallized from hexane has mp 89°-91° C.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 5-methoxy-3-(methylthio)-1H-indole-2-carboxylate | 5.2 mmol, 1.3 g | COC=1C=C2C(=C(NC2=CC1)C(=O)OC)SC | C12H13NO3S
reactant | iodomethane | 8.0 mmol, 0.50 mL, 1.1 g | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Methyl 5-methoxy-1-methyl-3-(methylthio)-1H-indole-2-carboxylate | 1.2 g, 88% | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)OC)SC | C13H15NO3S
